US06528525B1
(c) Ethyl 2-butyl-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 2-butyl-3-(4-hydroxyphenyl)-2-methylpropionate (2.95 g), which is the product of Reference example 10(b), 2-(2-bromoethoxy)tetrahydropyran (4.66 g) and potassium carbonate (4.62 g) in dimethylacetamide and the reaction mixture was treated to afford the desired compound (4.18 g) as a syrup.

reactant | ethyl 2-butyl-3-(4-hydroxyphenyl)-2-methylpropionate | 2.95 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)O)C | C16H24O3
reactant | 2-(2-bromoethoxy)tetrahydropyran | 4.66 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 4.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-butyl-2-methyl-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 4.18 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)C | C23H36O5
